Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cats, dogs, dust, pollen
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
___: EGD w/ banding

 
History of Present Illness:
Ms. ___ is a ___ yo F with PMH EtOH cirrhosis c/b renal failure
(HD ___, continued EtOH abuse (1 pint/day), and prior RLE
DVT ___ ago) who presents from HD c/o SOB. She reports that
she began feeling SOB "all of a sudden" while at HD after 
feeling
slow and fatigued this AM upon awakening. She skipped her last 
HD
session (___). She also had nbnb emesis 4X's at HD and in
the ED. She c/o RLE cramping and pain, this is chronic ___
duration. She also endorsed dysuria, particularly at the start 
of
her urination. 

She denied CP. She had chronic cough and belly pain. Had 1 
"dark"
and "sticky" bowel movement yesterday. Reports diarrhea ___ a
day of unknown duration. Had orthopnea, sleeps with ___ pillows
and legs propped up on pillow as well. Lightheaded. She denied
recent sick contacts or travel. 

She consumes a pint of hard liquor (brandy/vodka), with last
drink around 12AM the day before admission. She has had previous
admissions for EtOH but denied seizures or withdrawal. Was
discharged from rehab for alcohol a few weeks ago. Also 
concerned
about lump in the left arm that she noticed on day of admission.

In the ED,  initial Vitals:  T 98.0  HR 86 133/82 16 100% RA 

Exam: 
- General - drowsy but responsive 
- Cardiac - ___ systolic ejection murmur, RRR
- Pulmonary - CTAB 
- Abdomen - moderate TTP in LUQ>RUQ without guarding or rebound,
soft, +BS
- Extremities - RLE larger than LLE (pt reports chronic at
baseline), TTP in bilateral calves 
- Neuro - strength/sensation intact and symmetric in BLEs/BUEs

Labs:  
Trop-T: 0.06 K:5.1
Lactate:1.8
Hgb 5 from previous 9.9 in ___.  
Guaiac + on exam.
AST 108, ALT 42, AP 316 Alb 3.4 T.bili 1 lipase 108 
Serum ASA, etoh, acetam, tricyclics negative 
pBNP 1447 ___: 14.3  PTT: 28.8  INR: 1.3 

Imaging:  
___ Cta Abd & Pelvis 
**1. No evidence of active contrast extravasation within the
gastrointestinal
tract.
2. Diffuse mural edema involving the excluded stomach, small and
large bowel in keeping with portal gastropathy and enteropathy.
**3. Cirrhotic liver with moderate volume ascites and anterior
abdominal portosystemic collaterals.
4. Cholelithiasis. Gallbladder wall is edematous, likely due to
chronic liver
disease and third-spacing.
5. Multiple renal hypodensities, some of which are simple cysts
and others of which are indeterminate. Consider renal ultrasound
for further assessment.
6. CT findings suggestive of anemia.
7. Evidence of chronic pancreatitis including mild ductal
dilatation and
pancreatic calcifications.

___ CXR
FINDINGS:  
The lungs are clear.  There is no consolidation, effusion, or
edema.  The 
cardiomediastinal silhouette is within normal limits.  No acute
osseous 
abnormalities.  IVC filter noted in the abdomen. 
IMPRESSION:
No acute cardiopulmonary process.

Consults:  
GI consulted: NPO at midnight for EGD in AM. 2u RBCs
Nephrology/dialysis: HD tomorrow possibly 

Interventions:  
Consented for 2U PRBCs
2 PIV, T+S
Octreotide and IV PPI
CefTRIAXone 1 g IV 
Octreotide 

VS Prior to Transfer:  
T 98.3 HR 71 RR 16 BP 105/66 95% 2L O2 

 
Past Medical History:
EtOh Cirrhosis 
Stage IV CKD
Anemia
Wernicke's Encephalopathy
Asthma
Tobacco Use
HTN
Hypothyroidism
CIN II (cervical intraepithelial neoplasia II)
RLE DVT ___ dt L patella fx s/p IVC filter (removed),  w/
catheter
directed thrombolysis c/b ?extravasation into right thigh. DVT 
in
setting of immobility from left patella fracture
S/P BARIATRIC SURGERY ___ - ___ w/ Dr. ___ 
___
Seasonal allergies
ascites
esophageal varices
malnutrition
HEMORRHOIDS
HEPATIC HYDROTHORAX
COLONIC ADENOMA
 
Social History:
___
Family History:
Mother ASTHMA 
  DIABETES ___ 
  HYPERTENSION 
  THYROID DISORDER 
  OBESITY 
  
Father SUBSTANCE ABUSE 
  CARDIAC 
  HYPERTENSION 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: T 98.5 HR 73 105/53 RR 10 96% RA 
GEN: NAD, resting comfortably in bed 
HEENT: EOMI,  
NECK:  
CV:  systolic ejection murmur, regular rate
RESP: CTABL
GI: Soft, tender to palpation in the RUQ, no rebound or 
guarding,
+BS
MSK: Has a lump approximately ___ inches in diameter in the left
arm 
Swelling in the bilateral lower extremities. Right lower
extremity is more swollen than left, chronic at baseline.  
SKIN: No rashes, lesions
NEURO: alert and interactive, moving all extremities
spontaneously. BP dropped and became more confused when
lying-->sitting. 

DISCHARGE PHYSICAL EXAM:
========================
VS:24 HR Data (last updated ___ @ 836)
    Temp: 97.9 (Tm 98.2), BP: 96/51 (95-120/51-67), HR: 73
(72-76), RR: 16 (___), O2 sat: 96% (96-100), O2 delivery: Ra,
Wt: 170.5 lb/77.34 kg    

GEN: NAD, resting comfortably in bed, non-jaundiced; up and
ambulating wit help of walker during part of examination
HEENT: EOMI, no scleral icterus
CV:  systolic ejection murmur, regular rate
RESP: CTABL, no increased work of breathing
GI: Soft, non-tender to palpation, no rebound or guarding,
+BS
MSK: Swelling in the bilateral lower extremities. Right lower
extremity is more swollen than left, improved compared to
yesterday.
SKIN: No rashes, lesions
NEURO: alert and interactive, moving all extremities
spontaneously. Asterixis on exam.
 
Pertinent Results:
===============
Admission labs
===============
___ 02:42PM BLOOD WBC-9.1 RBC-1.38* Hgb-5.0* Hct-15.6* 
MCV-113* MCH-36.2* MCHC-32.1 RDW-19.9* RDWSD-78.3* Plt ___
___ 02:42PM BLOOD ___ PTT-28.8 ___
___ 02:42PM BLOOD Glucose-98 UreaN-52* Creat-7.1*# Na-134* 
K-5.6* Cl-95* HCO3-19* AnGap-20*
___ 02:42PM BLOOD ALT-42* AST-108* AlkPhos-316* TotBili-1.1
___ 02:42PM BLOOD cTropnT-0.06* proBNP-1447*
___ 02:42PM BLOOD Albumin-3.4*
___ 01:17AM BLOOD Albumin-3.1* Calcium-7.8* Phos-6.6* 
Mg-1.9
___ 02:42PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

===============
Pertinent labs
===============
___ 02:42PM BLOOD Neuts-71.0 Lymphs-15.1* Monos-12.3 
Eos-0.8* Baso-0.1 Im ___ AbsNeut-6.46* AbsLymp-1.37 
AbsMono-1.12* AbsEos-0.07 AbsBaso-0.01
___ 01:17AM BLOOD CK-MB-11* cTropnT-0.07*
___ 06:37AM BLOOD CK-MB-9 cTropnT-0.07*
___ 02:42PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

===============
Discharge labs
===============
___ 05:19AM BLOOD WBC-9.0 RBC-2.27* Hgb-7.3* Hct-23.8* 
MCV-105* MCH-32.2* MCHC-30.7* RDW-24.9* RDWSD-90.6* Plt Ct-82*
___ 05:19AM BLOOD Plt Ct-82*
___ 05:19AM BLOOD ___ PTT-26.9 ___
___ 05:19AM BLOOD Glucose-106* UreaN-28* Creat-5.2*# Na-141 
K-3.9 Cl-100 HCO3-23 AnGap-18
___ 05:19AM BLOOD ALT-27 AST-49* AlkPhos-289* TotBili-0.7
___ 05:19AM BLOOD Albumin-3.1* Calcium-7.9* Phos-4.1 Mg-1.8

===============
Studies
===============
EGD ___: Varices in distal esophagus s/p banding of grade 
III varcies. Stigmata of recent bleeding. RNY gastrojejunostomy. 
Large marginal ulcer with no evidence of active bleeding. 

CTA ___: IMPRESSION: 1. No evidence of active contrast 
extravasation within the gastrointestinal tract. 2. Diffuse 
mural edema involving the excluded stomach, small and large 
bowel in keeping with portal gastropathy and enteropathy. 3. 
Cirrhotic liver with moderate volume ascites and anterior 
abdominal portosystemic collaterals. 4. Cholelithiasis. 
Gallbladder wall is edematous, likely due to chronic liver 
disease and third-spacing. 5. Multiple renal hypodensities, some 
of which are simple cysts and others of which are indeterminate. 
Consider renal ultrasound for further assessment. 6. CT findings 
suggestive of anemia. 7. Evidence of chronic pancreatitis 
including mild ductal dilatation and pancreatic calcifications. 

CXR ___: No acute cardiopulmonary process.

LENIs ___: IMPRESSION: No evidence of deep venous thrombosis 
in the right or left lower extremity veins. Superficial edema is 
noted in the right calf. 

Renal US ___: IMPRESSION: Complex cyst in the midpole of the 
right kidney without internal vascularity likely a hemorrahgic 
cyst. Recommend follow up in 6 months to assess for interval 
change. Please note the left kidney was not well visualized in 
the current study. 

===============
Microbiology 
===============
___ BCx: no growth
___ BCx: no growth

 
Brief Hospital Course:
BRIEF SUMMARY:
=============
Ms. ___ is a ___ yo F with PMH EtOH cirrhosis c/b renal failure 
(HD ___, continued EtOH abuse (1 pint/day), and prior RLE 
DVT ___ ago) who presented from HD w/ SOB, then found to 
have dark stool and non-bleeding varices/ulcer on EGD, then 
transferred from ICU to ET for management of recent GI bleed and 
EtOH cirrhosis. She had variceal banding and was noted to have a 
large ulcer on EGD while in the ICU, these were considered to be 
the source of her bleeding, and she was medically optimized to 
prevent re-bleeding following the EGD on the ET service. She 
remained stable once out of the ICU, received HD, and was 
discharged home in stable condition.

TRANSITIONAL ISSUES:
==================
[ ] Complex cyst in the midpole of the right kidney, likely a 
hemorrahgic cyst. Recommend follow up in 6 months to assess for 
interval change. 
[ ] Unable to start BB inpatient due to low BPs (and patient is 
on high dose midodrine). If able to tolerate, please start BB 
given her varices. 
[ ] Requires a follow-up EGD in ___. 
[ ] 6 weeks of BID PPI, then recommend taper down to once daily. 

[ ] 2 weeks carafate due to recent banding. 
[ ] Recommend referral by PCP to outpatient/inpatient treatment 
for alcohol use disorder if patient is amenable. 
[ ] Patient discharged with home ___ and ___. 

CODE STATUS: Full
CONTACT: ___, ___

ACUTE ISSUES:
============
#Acute blood loss anemia ___ upper GI bleed, likely ___ large 
marginal ulcer versus variceal bleeding 
The patient presented from HD due to shortness of breath 
believed to be ___ pulmonary edema from a previously missed HD 
session. Upon presentation to the ED, she was noted to have 
melena and her Hb was 5, and she was transferred to the ICU. She 
required 3u pRBCs while there. She had an EGD which showed one 
grade 3 varix in the distal esophagus with stigmata of recent 
bleeding s/p ligation, and at the RNY gastrojejunostomy 
encountered a large marginal ulcer with white mucous plug at 
anastomosis and no evidence of active bleeding. Following her 
EGD, she was transferred to ET and placed on high dose PPI, 
carafate BID (reduced given renal dysfunction), ceftriaxone 1g 
IV for SBP prophylaxis. Octreotide drip was discontinued. Due to 
her low blood pressures she is unable to tolerate nadolol. She 
was discharged with Hgb 7.3.

#Alcoholic cirrhosis c/b hepatic encephalopathy
The patient described an extensive history of alcohol use, 
including up to the day prior to her admission. On presentation 
she had asterixis on her exam and was noted to be somnolent. She 
was given lactulose TID and part of her encephalopathy was 
presumed related to uremia from missing HD; this was treated on 
her ___ HD session. Her bleeding was treated as above, and 
she was noted to have abdominal discomfort on exam, confirmed by 
moderate ascites on CT exam. She will require continued 
monitoring of GI bleed risk, ascites, and hepatic encephalopathy 
as an outpatient, especially in the setting of continued alcohol 
use.

#Alcohol use disorder. Discharged from rehab for alcohol 
disorder a few weeks ago, but described her last drink as 
midnight the night prior to presentation to the ED. She was 
reported to be somnolent in the ED. She had no signs or symptoms 
of withdrawal but was placed on CIWA protocol and did not score. 
She was given high dose thiamine for 3 days, folate, and social 
work was consulted. On multiple occasions the team discussed 
with her the importance of stopping alcohol. We spoke to her 
mother on the day of discharge and instructed her to discard all 
alcohol from the home prior to discharge. 

#Peripheral edema. She had lower extremity swelling (R>L) and as 
a result had a lower extremity doppler ultrasound that showed no 
evidence of clot. The patient described this as a chronic issue 
for her, no further work-up was completed.

CHRONIC ISSUES:
==============
#ESRD on HD
#Anion gap metabolic acidosis. Received HD while inpatient. 
Acidosis presumed ___ renal disease.

#Chronic pancreatitis. Lipase elevated to 108, her diet was 
advanced as tolerated and tylenol for pain.

#Macrocytic anemia ___ bone marrow suppression from alcohol use. 
Treated with folate, CBC trended daily.

#Thrombocytopenia ___ bone marrow suppression from alcohol use. 
Observed and CBC trended daily.

#Hypothyroidism. Continued home levothyroxine.

#Gout. Continued home allopurinol.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Midodrine 20 mg PO TID 
2. Allopurinol ___ mg PO EVERY OTHER DAY 
3. Baclofen 5 mg PO TID 
4. Epoetin Alfa Dose is Unknown  IV Frequency is Unknown 
5. Clobetasol Propionate 0.05% Ointment 1 Appl TP Frequency is 
Unknown 
6. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN wheezing 
7. Ipratropium Bromide Neb 1 NEB IH BID:PRN wheeze 
8. Levothyroxine Sodium 62.5 mcg PO DAILY 
9. Lidocaine 0.5% 2 mL TT DAILY:PRN during dialysis 
10. FoLIC Acid Dose is Unknown  PO DAILY 
11. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q24H Duration: 3 Days 
starting ___.  Lactulose 30 mL PO TID  
3.  Pantoprazole 40 mg PO Q12H  
4.  Sucralfate 1 gm PO BID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Allopurinol ___ mg PO EVERY OTHER DAY  
7.  Baclofen 5 mg PO TID  
8.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID  
9.  Epoetin Alfa ___ UNIT IV ONCE Duration: 1 Dose  
10.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN wheezing  
11.  Ipratropium Bromide Neb 1 NEB IH BID:PRN wheeze  
12.  Levothyroxine Sodium 62.5 mcg PO DAILY  
13.  Lidocaine 0.5% 2 mL TT DAILY:PRN during dialysis  
14.  Midodrine 20 mg PO TID  
15.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Acute blood loss anemia ___ upper GI bleed, likely ___ marginal 
ulcer versus variceal bleed 
Alcoholic cirrhosis c/b hepatic encephalopathy
Alcohol use disorder
Peripheral edema

SECONDARY DIAGNOSIS
ESRD on HD
Chronic pancreatitis
Anion gap metabolic acidosis
Macrocytic anemia ___ bone marrow suppression from alcohol use
Thrombocytopenia ___ bone marrow suppression from alcohol use
Hypothyroidism
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were short of 
breath and you had a bleed from your stomach.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You received blood because your blood count was low.
- You had a procedure, called an "EGD," to see where you were 
bleeding. During that procedure you had some of your blood 
vessels tied off.
- You were treated with medicines to help prevent you from 
bleeding again.
- You received hemodialysis.
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- You must never drink alcohol again or you will die
- Be sure that ALL of the alcohol is thrown out at home so that 
you do not have access to it. 
- Please enroll in AA and work with your primary care doctor to 
determine the best strategy to help you stay sober. You can also 
talk with your doctor about doing ___ rehab. Your 
insurance may cover this for you. 
- If you notice dark stool, call you liver doctor right away
- ___ you begin to vomit blood, go to the emergency department 
immediately
- You should take your medication "carafate" twice a day for 2 
weeks, then you can stop this medication. 
- You should continue to take your medication,  pantoprazole, 
twice a day for six weeks, then start taking it once per day
- You need to take antibiotics for three more days. Your next 
dose is on ___. 
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Team
 
Followup Instructions:
___